Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea/Chest Discomfort 
 
Major Surgical or Invasive Procedure:
___ Cardiac Catheterization 

 
History of Present Illness:
 ___ is a ___ with h/o HTN, HLD, CAD (cath ___, 
LCx 50% origin, 60% marginal branch) who presents with CP and 
SOB. She had 2 days of nausea (without vomiting, abd pain, or 
diarrhea) but otherwise felt well until 8:30 pm on the day of 
presentation when she developed "crushing" left sided chest pain 
that radiated down her left arm and was also felt in her left 
leg. This was associated with diaphoresis, chills, nausea, and 
SOB. She was lying in bed at the time without any stressors or 
recent activity. The pain initially ___ and subsequently 
improved to ___ with multiple sublingual nitro tabs. This felt 
very similar to pain she had had in ___ prompting the cath 
which showed nonocclusive disease. Between ___ and this event 
she has had rare episodes of mild CP relieved with nitro, none 
recently. No recent SOB, DOE, orthopnea. No f/c/s, rhinorrhea, 
myalgias.  
 She developed hypotension to the SBPs ___ in the ED after SL 
nitro which improved with 500 cc NS x2.  
 In the ED, labs showed WBC 12.1, trop < 0.01  
 ECG: NSR, Nl axis, normal intervals, non-specific ST-T wave 
changes consistent with prior. Serial ECGs checked in ED, 
unchanged.  
 Received:  
 ___ 01:30 SL Nitroglycerin SL .4 mg  
 ___ 01:30 IV Ondansetron 4 mg  
 ___ 02:22 IVF 1000 mL NS 500 mL  
 ___ 02:25 IVF 1000 mL NS 500 mL  
 ___ 03:22 IV Heparin 4000 UNIT  
 ___ 03:22 IV Heparin  
 
 Transfer VS were 5 60 89/61 21 92% RA  
 Cardiology was consulted and recommended admitting to ___ for 
possible cath in AM.  
 On arrival to the floor, patient reports that her pain is now 
entirely gone. She still has some numbness and tingling in her 
left arm. No SOB, diaphoresis. Still some nausea, no abd pain, 
diarrhea
 
Past Medical History:
 Non-obstructive coronary artery disease.  
 Hypertension.  
 Hyperlipidemia.  
 History of TIA/stroke w/o deficits (> ___ years ago)  
 Anxiety  
 PSHx:  
 Cholecystectomy  
 Knee surgery  
 
Social History:
___
Family History:
Father had MI in his ___  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VS - 98.1 100/64 55 18 100% RA  
GENERAL: NAD  
HEENT: AT/NC, anicteric sclera, pink conjunctiva, MMM  
NECK: nontender supple neck, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of ccessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
NEURO: alert and interactive, MAE, strength ___ in UE 
bilaterally  

DISCHARGE PHYSICAL EXAM:
==========================
VS - 98.1 100/64 55 18 100% RA  
GENERAL: NAD  
HEENT: AT/NC, anicteric sclera, pink conjunctiva, MMM  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding
EXTREMITIES: no edema, moving all 4 extremities with purpose  
NEURO: alert and interactive, strength ___ in UE bilaterally  

 
Pertinent Results:
ADMISSION/DISCHARGE LABS:
===========================

___ 01:10AM BLOOD WBC-12.1* RBC-4.20 Hgb-12.7 Hct-39.3 
MCV-94 MCH-30.2 MCHC-32.3 RDW-12.8 RDWSD-44.0 Plt ___
___ 01:10AM BLOOD Glucose-99 UreaN-13 Creat-0.6 Na-137 
K-4.0 Cl-102 HCO3-23 AnGap-16
___ 01:10AM BLOOD CK(CPK)-130
___ 01:10AM BLOOD cTropnT-<0.01
___ 09:30AM BLOOD CK-MB-1 cTropnT-<0.01
___ 01:10AM BLOOD Calcium-9.0 Mg-1.9

IMAGING:
==========

Dominance: Right
LMCA: The LMCA had mild luminal irregularities. The JL 3.5 was 
too short and did not sit co-axially in
the LMCA (similar to the prior angiogram), but a bend in the 
catheter in the right subclavian artery
prevented engagement with a JL4 from the right radial artery.
LAD: The proximal LAD was mildly calcified. The proximal and mid 
LAD had mild plaquing to 25%.
Flow in the LAD was pulsatile, consistent with microvascular 
dysfunction. The large D2 was tortuous with
delayed flow.
LCX: The ostial LCX had mild plaquing. Flow in the CX was slow 
and pulsatile, consistent with
microvascular dysfunction. The high OM1 and OM2 were small. The 
more distal larger OMs were
tortuous, suggestive of hypertensive heart disease. There was 
mild plaquing at the origin of the distal AV
groove CX just after the large OM3.
RCA: The RCA had diffuse plaquing throughout to 35% proximally 
with delayed flow consistent with
microvascular dysfunction. There was some ectasia and 
non-laminar flow in the mid RCA. The modest
caliber RPDA proper extended halfway out the inferior septum. 
The distal inferior septum was perfused
by a large AM/RV branch with a tortuous terminal vessel. The 
distal AV groove RCA extended well up the
LV. The large RPL2 was tortuous, as was the adjacent slightly 
smaller RPL3.
Intra-procedural Complications: None
___
___
DOB: ___
Procedure Date: ___
Cath Number: ___
___ 4 Cardiac Catheterization & Endovascular 
Procedure Report Tel: ___
___ Page 4 of 6 Reported created: ___ 3:00 ___ 
Fax: ___
Impressions:
1. No angiographically apparent high grade flow-limiting CAD, 
but there was mild diffuse atherosclerosis
and diffuse slow flow consistent with microvascular dysfunction. 
Terminal vessels were tortuous,
consistent with hypertensive heart disease.
2. Mild-moderate left ventricular diastolic dysfunction.
3. Tortuous right subclavian artery; suggest using left radial 
arterial access in the future.
Recommendations
1. Routine post-TR Band care.
2. Reinforce secondary preventative measures against CAD, 
including ___ medical therapy for
microvascular dysfunction and possible small vessel ischemia.
3. F/U with Dr. ___.
 
Brief Hospital Course:
___ year old woman with hx of HTN and non obstructive CAD who was 
here for unstable angina. She had troponin negative x2 and ECG 
without ST-T changes. However, chest pain description was very 
concerning for ACS, had cath with similar non obstructive 
disease without intervention. She was initially started on a 
heparin gtt, and the decision was made to take her to the cath 
lab. Her catheterization showed no angiographically apparent 
high grade flow-limiting CAD, but there was mild diffuse 
atherosclerosis and diffuse slow flow consistent with 
microvascular dysfunction. Terminal vessels were tortuous, 
consistent with hypertensive heart disease. She had 
mild-moderate left ventricular diastolic dysfunction.

Patient's blood pressures appeared to be in 120s-130s at 
baseline. They were in SBP ___ after multiple nitroglycerin 
administrations, and then were low after procedure. She had no 
symptoms, orthostatics negative. Thus lisinopril and metoprolol 
dosing decreased until outpatient cardiology followup.

TRANSITIONAL ISSUES:
=====================
-Discharge systolic BPs: 100-110, negative orthostatics
-Changed medications: Lisinopril 10-> 5 mg daily, Metoprolol 
Succinate 25 mg ->12.5 mg daily
-Tortuous right subclavian artery; suggest using left radial 
arterial access in the future.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 

 
Discharge Medications:
1.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
2.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
once a day Disp #*15 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
-Unstable Angina with known CAD

Secondary:
-Hypertension 
-Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ___ Cardiology team for chest pain on 
___.

What was done?
================
-You had a cardiac catheterization done to look at your heart 
vessels which appeared largely unchanged from your previous test 
and did not need any new intervention.

What to do next?
=================
Please follow up with your doctors and take your medications. 
We recommend you call and have a sooner appointment with Dr. 
___.

We are decreasing your dose of Lisinopril and Metoprolol given 
your blood pressures were slightly lower, please follow up with 
Dr. ___ going back to your original dosing. 

Your only new medication is Omeprazole which is an acid reducing 
medication since aspirin can hurt your stomach, as recommended 
by Dr. ___.

We wish you the best
Your ___ care team 
 
Followup Instructions:
___